US04514416
Synthesis of 4-amidino-2-benzoylphenyl 4-benzyloxybenzoate
To a mixture of 3.4 g of 4-benzyloxybenzoic acid and 50 ml of dried pyridine, while being cooled in ice, was added 3.7 g of DCC. After having been stirred for 30 minutes, the mixture was admixed with 5.0 g of 4-amidino-2-benzoylphenol methanesulfonate and stirred overnight at room temperature. The reaction mixture was freed from the insolubles by filtration and mixed with ethyl ether. The precipitated insoluble substance was recrystallized from a methanol-ethyl ether mixture to obtain 5.2 g of colorless crystals of 4-amidino-2-benzoylphenyl 4-benzyloxybenzoate methanesulfonate.

reactant | 4-benzyloxybenzoic acid | 3.4 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | DCC | 3.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidino-2-benzoylphenol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C15H14N2O4S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-benzoylphenyl 4-benzyloxybenzoate | 5.2 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC2=C(C=C(C=C2)C(N)=N)C(C2=CC=CC=C2)=O)C=C1 | C28H22N2O4
